US07964219B2
The Stability of Octreotide in Injectable Formulations
Poly(DL-lactide-co-glycolide) (PLGA) having a 50/50 ratio of lactide to glycolide (DL2.5A from Alkermes) was dissolved in N-methyl-2-pyrrolidone (NMP), or methoxypolyethylene glycohol (mPEG) to give a 40% solution by weight. The injectable polymer solutions were prepared by dispersing octreotide phytate or acetate or citrate. The mixture was thoroughly mixed until a uniform suspension or solution was obtained. Injectable formulations were prepared as shown below.

reactant | octreotide phytate | C[C@H]([C@H]1C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N1)CCCCN)CC2=CNC3=C2C=CC=C3)CC=4C=CC=CC4)NC(=O)[C@@H](CC=5C=CC=CC5)N)C(=O)N[C@H](CO)[C@@H](C)O)O.C1(C(C(C(C(C1OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O
reactant | acetate | C(C)(=O)[O-]
reactant | citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
product | Octreotide | C[C@H]([C@H]1C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N1)CCCCN)CC2=CNC3=C2C=CC=C3)CC=4C=CC=CC4)NC(=O)[C@@H](CC=5C=CC=CC5)N)C(=O)N[C@H](CO)[C@@H](C)O)O | C49H66N10O10S2
